US05705188
In 120 ml of xylene was dissolved 3.22 g (10 mmol) of 1-O-tritylglycerol, followed by addition of 3.36 g (30 mmol) of t-butoxypotassium under argon. After 5 minutes of stirring, 30 ml of a solution of 12.8 g (30 mmol) oleyl p-toluenesulfonate in xylene was added dropwise and the mixture was stirred under reduced pressure (20-30 mmHg) at ambient temperature for 30 minutes and, then, at 50 for 1 hour. The reaction mixture was then poured in ice-water and extracted with ether, and the extract was washed with water, dried, and concentrated. The residue was purified by column chromatography (silica gel/n-hexane-ethyl acetate) to provide 6.10 g (73%) of 1,2-O-dioleyl-3-O-tritylglycerol.

reactant | 1-O-tritylglycerol | 10 mmol, 3.22 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCC(O)CO | C22H22O3
reactant | t-butoxypotassium | 30 mmol, 3.36 g | C(C)(C)(C)O[K]
reactant | oleyl p-toluenesulfonate | 30 mmol, 12.8 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCCCC\C=C/CCCCCCCC)C | C25H42O3S
solvent | xylene | 120 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1,2-O-dioleyl-3-O-tritylglycerol | 6.10 g, 73% | C(CCCCCCC\C=C/CCCCCCCC)OCC(OCCCCCCCC\C=C/CCCCCCCC)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C58H90O3
